.title kicad schematic

* u19 net-_u15-pad5_ net-_u10-pad2_ net-_u19-pad3_ d_tristate
* u15 net-_u15-pad1_ net-_u12-pad2_ unconnected-_u15-pad3_ net-_u10-pad2_ net-_u15-pad5_ net-_u10-pad2_ d_dlatch
* u2 net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u10-pad3_ net-_u2-pad7_ net-_u2-pad8_ net-_u11-pad3_ unconnected-_u2-pad10_ net-_u1-pad1_ net-_u16-pad3_ net-_u12-pad1_ net-_u13-pad1_ net-_u17-pad3_ net-_u18-pad3_ net-_u14-pad1_ net-_u15-pad1_ net-_u19-pad3_ unconnected-_u2-pad20_ port
* u18 net-_u14-pad5_ net-_u10-pad2_ net-_u18-pad3_ d_tristate
* u14 net-_u14-pad1_ net-_u12-pad2_ unconnected-_u14-pad3_ net-_u10-pad2_ net-_u14-pad5_ unconnected-_u14-pad6_ d_dlatch
* u13 net-_u13-pad1_ net-_u12-pad2_ unconnected-_u13-pad3_ net-_u10-pad2_ net-_u13-pad5_ unconnected-_u13-pad6_ d_dlatch
* u17 net-_u13-pad5_ net-_u10-pad2_ net-_u17-pad3_ d_tristate
* u8 net-_u4-pad5_ net-_u10-pad2_ net-_u2-pad2_ d_tristate
* u5 net-_u2-pad4_ net-_u12-pad2_ unconnected-_u5-pad3_ net-_u10-pad2_ net-_u5-pad5_ unconnected-_u5-pad6_ d_dlatch
* u9 net-_u5-pad5_ net-_u10-pad2_ net-_u2-pad5_ d_tristate
* u1 net-_u1-pad1_ net-_u1-pad2_ d_inverter
* u3 net-_u1-pad2_ net-_u12-pad2_ d_inverter
* u4 net-_u2-pad3_ net-_u12-pad2_ unconnected-_u4-pad3_ net-_u10-pad2_ net-_u4-pad5_ unconnected-_u4-pad6_ d_dlatch
* u7 net-_u2-pad8_ net-_u12-pad2_ unconnected-_u7-pad3_ net-_u10-pad2_ net-_u11-pad1_ unconnected-_u7-pad6_ d_dlatch
* u6 net-_u2-pad7_ net-_u12-pad2_ unconnected-_u6-pad3_ net-_u10-pad2_ net-_u10-pad1_ unconnected-_u6-pad6_ d_dlatch
* u10 net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ d_tristate
* u11 net-_u11-pad1_ net-_u10-pad2_ net-_u11-pad3_ d_tristate
* u20 net-_u2-pad1_ net-_u10-pad2_ d_buffer
* u16 net-_u12-pad5_ net-_u10-pad2_ net-_u16-pad3_ d_tristate
* u12 net-_u12-pad1_ net-_u12-pad2_ unconnected-_u12-pad3_ net-_u10-pad2_ net-_u12-pad5_ unconnected-_u12-pad6_ d_dlatch
a1 net-_u15-pad5_ net-_u10-pad2_ net-_u19-pad3_ u19
a2 net-_u15-pad1_ net-_u12-pad2_ unconnected-_u15-pad3_ net-_u10-pad2_ net-_u15-pad5_ net-_u10-pad2_ u15
a3 net-_u14-pad5_ net-_u10-pad2_ net-_u18-pad3_ u18
a4 net-_u14-pad1_ net-_u12-pad2_ unconnected-_u14-pad3_ net-_u10-pad2_ net-_u14-pad5_ unconnected-_u14-pad6_ u14
a5 net-_u13-pad1_ net-_u12-pad2_ unconnected-_u13-pad3_ net-_u10-pad2_ net-_u13-pad5_ unconnected-_u13-pad6_ u13
a6 net-_u13-pad5_ net-_u10-pad2_ net-_u17-pad3_ u17
a7 net-_u4-pad5_ net-_u10-pad2_ net-_u2-pad2_ u8
a8 net-_u2-pad4_ net-_u12-pad2_ unconnected-_u5-pad3_ net-_u10-pad2_ net-_u5-pad5_ unconnected-_u5-pad6_ u5
a9 net-_u5-pad5_ net-_u10-pad2_ net-_u2-pad5_ u9
a10 net-_u1-pad1_ net-_u1-pad2_ u1
a11 net-_u1-pad2_ net-_u12-pad2_ u3
a12 net-_u2-pad3_ net-_u12-pad2_ unconnected-_u4-pad3_ net-_u10-pad2_ net-_u4-pad5_ unconnected-_u4-pad6_ u4
a13 net-_u2-pad8_ net-_u12-pad2_ unconnected-_u7-pad3_ net-_u10-pad2_ net-_u11-pad1_ unconnected-_u7-pad6_ u7
a14 net-_u2-pad7_ net-_u12-pad2_ unconnected-_u6-pad3_ net-_u10-pad2_ net-_u10-pad1_ unconnected-_u6-pad6_ u6
a15 net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ u10
a16 net-_u11-pad1_ net-_u10-pad2_ net-_u11-pad3_ u11
a17 net-_u2-pad1_ net-_u10-pad2_ u20
a18 net-_u12-pad5_ net-_u10-pad2_ net-_u16-pad3_ u16
a19 net-_u12-pad1_ net-_u12-pad2_ unconnected-_u12-pad3_ net-_u10-pad2_ net-_u12-pad5_ unconnected-_u12-pad6_ u12
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u19 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_dlatch, Ngspice Name: d_dlatch
.model u15 d_dlatch(data_delay=1.0e-9 enable_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0e-9 ic=0 data_load=1.0e-12 enable_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u18 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_dlatch, Ngspice Name: d_dlatch
.model u14 d_dlatch(data_delay=1.0e-9 enable_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0e-9 ic=0 data_load=1.0e-12 enable_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dlatch, Ngspice Name: d_dlatch
.model u13 d_dlatch(data_delay=1.0e-9 enable_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0e-9 ic=0 data_load=1.0e-12 enable_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u17 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u8 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_dlatch, Ngspice Name: d_dlatch
.model u5 d_dlatch(data_delay=1.0e-9 enable_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0e-9 ic=0 data_load=1.0e-12 enable_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u9 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u1 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u3 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_dlatch, Ngspice Name: d_dlatch
.model u4 d_dlatch(data_delay=1.0e-9 enable_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0e-9 ic=0 data_load=1.0e-12 enable_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dlatch, Ngspice Name: d_dlatch
.model u7 d_dlatch(data_delay=1.0e-9 enable_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0e-9 ic=0 data_load=1.0e-12 enable_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dlatch, Ngspice Name: d_dlatch
.model u6 d_dlatch(data_delay=1.0e-9 enable_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0e-9 ic=0 data_load=1.0e-12 enable_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u10 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u11 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u20 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_tristate, Ngspice Name: d_tristate
.model u16 d_tristate(delay=1.0e-9 input_load=1.0e-12 enable_load=1.0e-12 ) 
* Schematic Name:                             d_dlatch, Ngspice Name: d_dlatch
.model u12 d_dlatch(data_delay=1.0e-9 enable_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0e-9 ic=0 data_load=1.0e-12 enable_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
